US07799815B2
Preparation 25: diethyl 1-(5-quinolinyl)-1,2-cyclopropanedicarboxylate (P25)
Sodium hydride (0.93 g) was added in small portions to a stirred suspension of trimethylsulfoxonium iodide (5.12 g) in DMSO (50 mL) at room temperature. After 0.5 h, the clear reaction mixture was cooled to 0° C. and a solution of diethyl-2-(5-quinolinyl)-2-butenedioate (P24, 3.48 g) in DMSO (25 mL) was quickly added and the stirring continued for 0.5 h after which time water (30 mL) was added. The mixture was extracted twice with ether (30 mL), the organic phase was washed with saturated ammonium chloride, dried over sodium sulphate and evaporated under reduced pressure. The crude product was purified by flash chromatography on silica gel (eluting with cyclohexane-ethyl acetate from 100 to 70%) to give 3.02 g of the title compound as a slightly yellow oil.

reactant | Sodium hydride | 0.93 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 5.12 g | [I-].C[S+](=O)(C)C
reactant | diethyl-2-(5-quinolinyl)-2-butenedioate | 3.48 g | C(C)OC(C(=CC(=O)OCC)C1=C2C=CC=NC2=CC=C1)=O | C17H17NO4
reactant | water | 30 mL | O | H2O
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | diethyl 1-(5-quinolinyl)-1,2-cyclopropanedicarboxylate | 3.02 g | N1=CC=CC2=C(C=CC=C12)C1(C(C1)C(=O)OCC)C(=O)OCC | C18H19NO4
